US07429565B2
{4-[6-Methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-2-methyl-but-2-enyl}-phosphonic acid monophenyl ester
To a solution of {4-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-2-methyl-but-2-enyl}-phosphonic acid diphenyl ester (75 mg, 0.126 mmol) in THF (5 mL) was added 1N NaOH (0.1 mL) solution. The mixture was allowed to stir at room temperature for 16 hours. EtOAc was added and the resulting mixture was washed with 1H HCl. The organic layer was concentrated to dryness and the residue was purified by RP HPLC using a C18 column with a gradient of H2O, 0.1% TFA-acetonitrile, 0.1% TFA to provide 24.8 mg (38%) of the desired product. MS (m/z) 517 [M−H]−, 541 [M+Na]+.

reactant | {4-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-2-methyl-but-2-enyl}-phosphonic acid diphenyl ester | 0.126 mmol, 75 mg | C1(=CC=CC=C1)OP(OC1=CC=CC=C1)(=O)CC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)OCC[Si](C)(C)C)C | C32H39O7PSi
reactant | NaOH | 1N, 0.1 mL | [OH-].[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | {4-[6-Methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-2-methyl-but-2-enyl}-phosphonic acid monophenyl ester | 24.8 mg, 38% | C1(=CC=CC=C1)OP(O)(=O)CC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)OCC[Si](C)(C)C)C | C26H35O7PSi
